US05026856
7-(4-fluoro-2-isoindolinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
210 mg of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 106 mg of 40 fluoroisoindoline, 213 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 35 mg of the target compound.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 210 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | fluoroisoindoline | FC1NCC2=CC=CC=C12 | C8H8FN
reactant | DBU | 213 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-fluoro-2-isoindolinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 35 mg | FC1=C2CN(CC2=CC=C1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)F | C21H14F4N2O3
